US07763609B2
Method DE, Step 2: 5-(4-Chlorophenyl)-1,1-dioxo-[1,2,4]thiadiazinan-3-one
Using a method similar to that described by K. Hasegawa and S. Hirooka (Bull. Chem. Soc. Jap., 1972, 45, 1893), 5-(4-chlorophenyl)-3-methylsulfanyl-5,6-dihydro-4H-[1,2,4]thiadiazine 1,1-dioxide DE2 in acetone is treated with 1N NaOH and the mixture is refluxed for 2 h. The acetone is evaporated and the mixture is acidified with conc. HCl to afford the title compound DE3.

reactant | 5-(4-chlorophenyl)-3-methylsulfanyl-5,6-dihydro-4H-[1,2,4]thiadiazine 1,1-dioxide | ClC1=CC=C(C=C1)C1NC(=NS(C1)(=O)=O)SC | C10H11ClN2O2S2
reactant | NaOH | 1N | [OH-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 5-(4-Chlorophenyl)-1,1-dioxo-[1,2,4]thiadiazinan-3-one | ClC1=CC=C(C=C1)C1NC(NS(C1)(=O)=O)=O | C9H9ClN2O3S
